US09382243B2
(2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)thio)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol
To a stirred solution of 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (35 mg, 0.066 mmol) and (4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxine-7-thiol (21 mg, 0.082 mmol) under nitrogen in anhydrous DMF (0.7 mL) at room temperature was added NaH (4 mg, 0.102 mmol) in one portion. After stirring at room temperature for 1 hour, the mixture was poured into saturated aqueous sodium bicarbonate (30 mL) and extracted with EtOAc (60 mL). The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The resultant orange oil was dissolved in formic acid (1.0 mL). Then saturated aqueous potassium hydrogen sulfate (0.2 mL) was added and the mixture was stirred at 50° C. After 1.5 hours, the mixture was poured into saturated aqueous sodium bicarbonate (60 mL) and extracted with EtOAc (2×60 mL). The combined organic layers were concentrated under reduced pressure. The resultant white film was dissolved in methanol (3 mL). Then 5N aqueous NaOH (0.5 mL, 2.5 mmol) was added and the mixture was allowed to stir at room temperature. After 15 minutes, the mixture was neutralized with 1N aqueous HCl (2.5 mL, 2.5 mmol), poured into saturated aqueous sodium bicarbonate (30 mL) and extracted with EtOAc (60 mL). The organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. The resultant white film was chromatographed using a Biotage™ 20 g (2×10 g in series) silica gel cartridge eluted with 0-10% methanol in DCM over 20 column volumes. The combined product fractions were concentrated under reduced pressure, dissolved in MeCN and water, frozen at −78° C., and lyophilized to dryness to provide the title compound as a white solid. LC-MS: calculated for C24H22ClN3O3S 467.11, observed m/e: 468.10 (M+H)+ (Rt 2.03/4 min). 1H NMR δ (ppm)(CD3OD): 7.97 (s, 1H), 7.75-7.68 (m, 5H), 7.46 (t, J=7.5 Hz, 2H), 7.36 (t, J=7.5 Hz, 1H), 4.28 (dd, J=11.0, 4.5 Hz, 1H), 4.03 (m, 1H), 3.87 (dd, J=11.5, 0.8 Hz, 1H), 3.66-3.57 (m, 2H), 3.37 (t, J=11.0 Hz, 1H), 3.15 (m, 1H), 2.54 (m, 1H), 1.60 (q, J=12.0 Hz, 1H)

reactant | 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.066 mmol, 35 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)S(=O)(=O)C)Cl)C2=CC=CC=C2 | C25H28ClN3O3SSi
reactant | (4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxine-7-thiol | 0.082 mmol, 21 mg | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)C[C@H](CO2)S | C13H16O3S
reactant | NaH | 0.102 mmol, 4 mg | [H-].[Na+]
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
reactant | NaOH | 2.5 mmol, 5N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 2.5 mmol, 1N, 2.5 mL | Cl | ClH
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)thio)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)S[C@@H]2C[C@@H]([C@H](OC2)CO)O)Cl)C2=CC=CC=C2 | C24H22ClN3O3S
